US06855722B2
d) 3-[5-(2-Hydroxy-ethoxy)-indol-1-yl]-3-phenyl-propionic acid ethyl ester
3-[-5-(2-benzyloxy-ethoxy)-indol-1-yl]-3-phenyl-acrylic acid ethyl ester (2.5 g, 5.6 mmol) was dissolved in 70% ethyl acetate/methanol (50 mL) and added under an argon atmosphere to a suspension of 10% palladium on carbon [10% w/w] (3.0 g) in the same solvent (50 mL). The reaction was placed in a Parr Hydrogenator for 6 h. The reaction was filtered through celite and the solvent was evaporated under vacuum. Purification of the crude mixture via column chromatography with silica gel, eluting with hexane/ethyl acetate gave the title compound (80% yield). 1H NMR (CDCl3), δ 7.14-7.32 (m, 7H), 6.82 (dd, 1H, J=2.3, 8.8 Hz), 6.45 (d, 1H, J=3.0 Hz), 6.07 (d, 1H, J=2.1 Hz), 6.01 (t, 1H, J=7.4 Hz), 4.03 (m, 4H), 3.91 (m, 2H), 3.27 (m, 2H), 1.06 (t, 3H, J=7.2 Hz).

reactant | 3-[-5-(2-benzyloxy-ethoxy)-indol-1-yl]-3-phenyl-acrylic acid ethyl ester | 5.6 mmol, 2.5 g | C(C)OC(C=C(C1=CC=CC=C1)N1C=CC2=CC(=CC=C12)OCCOCC1=CC=CC=C1)=O | C28H27NO4
solvent | ethyl acetate methanol | 50 mL | C(C)(=O)OCC.CO
catalyst | palladium on carbon | 3.0 g | [Pd] | Pd
product | 3-[5-(2-Hydroxy-ethoxy)-indol-1-yl]-3-phenyl-propionic acid ethyl ester | 80% yield | C(C)OC(CC(C1=CC=CC=C1)N1C=CC2=CC(=CC=C12)OCCO)=O | C21H23NO4
